US09145380B2
b) 3-Amino-thiophene-2-sulfonamide
A 57% aqueous solution of hydriodic acid (15 mL) was added to neat 3-nitro-thiophene-2-sulfonamide (1.02 g, 4.90 mmol) at room temperature. The reaction mixture was heated at 90° C. for 1 hour, cooled to room temperature and diluted with ethyl acetate (50 mL). The mixture was washed with a solution of sodium thiosulfate and the pH was adjusted to pH˜8 with sodium bicarbonate. The mixture was extracted with 10% methanol in ethyl acetate and the organic phase was dried over magnesium sulfate and concentrated in vacuo. Purification by column chromatography, using a gradient of 30-70% ethyl acetate in hexanes as the eluent, gave 65% yield of the title compound.

reactant | hydriodic acid | 15 mL | I | HI
reactant | 3-nitro-thiophene-2-sulfonamide | 4.90 mmol, 1.02 g | [N+](=O)([O-])C1=C(SC=C1)S(=O)(=O)N | C4H4N2O4S2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 3-Amino-thiophene-2-sulfonamide | 65% yield | NC1=C(SC=C1)S(=O)(=O)N | C4H6N2O2S2
